US09260434B2
3-Cyclohexyl-3-hydroxy-1-(2-iodophenyl)propan-1-one
To a solution of diisopropylamine (1.6 mL, 11.1 mmol) in THF (38 mL) at 0° C. was added n-BuLi (4.1 mL, 10.2 mmol) under an atmosphere of N2. After 30 min the solution was cooled to −30° C. and a solution of 1-(2-iodophenyl)ethanone (2.27 g, 9.23 mmol) in THF (6 mL) was added dropwise to the mixture and was stirred for 45 min at −30° C. The mixture was cooled to −78° C. and cyclohexylcarboxaldehyde (1.2 mL, 9.69 mmol) was added dropwise and the mixture was allowed to warm to −40° C. over 2 h. The reaction was quenched by the addition of saturated aqueous NH4Cl. The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by flash column chromatography to afford the title compound as yellow oil (2.56 g, 78%). 1H NMR: 1.02-1.27 (m, 4H), 1.41-1.49 (m, 1H), 1.66-1.76 (m, 4H), 1.89 (d, 1H, J=12.4 Hz), 2.88 (d, 1H, J=3.2 Hz), 2.98 (dd, 1H, J=9.2 Hz, 17.2 Hz), 3.13 (dd, 1H, J=2.0 Hz, 17.2 Hz), 3.99-4.01 (m, 1H), 7.11-7.15 (m, 1H), 7.42 (d, 2H, J=4.4 Hz), 7.93 (d, 1H, J=8.0 Hz).

reactant | diisopropylamine | 11.1 mmol, 1.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 10.2 mmol, 4.1 mL | [Li]CCCC
reactant | 1-(2-iodophenyl)ethanone | 9.23 mmol, 2.27 g | IC1=C(C=CC=C1)C(C)=O | C8H7IO
reactant | cyclohexylcarboxaldehyde | 9.69 mmol, 1.2 mL | C1CCC(CC1)C=O | C7H12O
solvent | THF | 38 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-Cyclohexyl-3-hydroxy-1-(2-iodophenyl)propan-1-one | 2.56 g, 78% | C1(CCCCC1)C(CC(=O)C1=C(C=CC=C1)I)O | C15H19IO2
